US07462629B2
To a solution of 6-hydroxymethyl-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (85 mg, 0.323 mmol) in CH2Cl2 (1.5 mL) is added a solution of 4-chloro-3-trifluoromethyl-phenol (76 mg, 1.23 eq.) in CH2Cl2 (0.5 mL), PPh3 (127 mg, 1.5 eq.), and 1,1′-(azodicarbonyl)-dipiperidine (122 mg, 1.5 eq.). The mixture is stirred at room temperature overnight. All the solvent is removed under reduced pressure and the mixture is purified by column chromatography (silica gel, EtOAc/Hexane, gradient) to give 70 mg of 6-(4-chloro-3-trifluoromethyl-phenoxymethyl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester

reactant | 6-hydroxymethyl-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 0.323 mmol, 85 mg | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)CO | C15H21NO3
reactant | 4-chloro-3-trifluoromethyl-phenol | 76 mg, 1.23 eq. | ClC1=C(C=C(C=C1)O)C(F)(F)F | C7H4ClF3O
reactant | PPh3 | 127 mg, 1.5 eq. | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 1,1′-(azodicarbonyl)-dipiperidine | 122 mg, 1.5 eq. | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 6-(4-chloro-3-trifluoromethyl-phenoxymethyl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 70 mg | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)COC1=CC(=C(C=C1)Cl)C(F)(F)F | C22H23ClF3NO3
